US07884207B2
To a 0° C. solution of 4-chloro-3-nitroquinoline (7.50 g, 36.0 mmol) and triethylamine (7.5 mL, 54 mmol) in dichloromethane (150 mL) was added 8-(aminomethyl)-1,4-dioxaspiro[4.5]decan-8-ol (8.10 g, 43.1 mmol). The reaction was allowed to warm to rt and stir overnight, then was concentrated under reduced pressure to yield a yellow solid. The solid was stirred in water (500 mL) and was isolated by filtration, dried under vacuum, and recrystallized from toluene (280 mL) to yield 8-{[(3-nitroquinolin-4-yl)amino]methyl}-1,4-dioxaspiro[4.5]decan-8-ol as bright yellow crystals (12.3 g, 72%).

reactant | 4-chloro-3-nitroquinoline | 36.0 mmol, 7.50 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | triethylamine | 54 mmol, 7.5 mL | C(C)N(CC)CC | C6H15N
reactant | 8-(aminomethyl)-1,4-dioxaspiro[4.5]decan-8-ol | 43.1 mmol, 8.10 g | NCC1(CCC2(OCCO2)CC1)O | C9H17NO3
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | water | 500 mL | O | H2O
product | 8-{[(3-nitroquinolin-4-yl)amino]methyl}-1,4-dioxaspiro[4.5]decan-8-ol | 12.3 g, 72% | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCC1(CCC2(OCCO2)CC1)O | C18H21N3O5
